US05719278
6-[(Dimethylamino)methylene]-6,7,8,9-tetrahydro-9-(4-nitrobenzyl)-5H-pyrido[2,3-b]azepin-5-one
To a slurry of 0.50 g of 6,7,8,9-tetrahydro-9-(4-nitrobenzoyl)-5H-pyrido[2,3-b]azepin-5-one in 10 ml of tetrahydrofuran under argon is added 0.70 g of tert-butoxy-bis(dimethylamino)methane and the mixture is stirred at room temperature overnight. The volatiles are removed under vacuum and the residue in ethyl acetate--CH2Cl2 (2:8) filtered through a short column of silica gel. The silica gel is washed with ethyl acetate (discard) and then with chloroform containing 3% methanol to give 0.51 g of the product as a yellow solid.

reactant | 6,7,8,9-tetrahydro-9-(4-nitrobenzoyl)-5H-pyrido[2,3-b]azepin-5-one | 0.50 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(C(CCC2)=O)C=CC=N3)C=C1 | C16H13N3O4
reactant | tert-butoxy-bis(dimethylamino)methane | 0.70 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-[(Dimethylamino)methylene]-6,7,8,9-tetrahydro-9-(4-nitrobenzyl)-5H-pyrido[2,3-b]azepin-5-one | 0.51 g | CN(C)C=C1C(C2=C(N(CC1)CC1=CC=C(C=C1)[N+](=O)[O-])N=CC=C2)=O | C19H20N4O3
